Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Vertigo 
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
HPI:  
 Mr. ___ is a ___ year-old male with untreated hypertension, 
ulcerative colitis who comes for syncope.  
 Per EMS report, he had just finished working out in the 
treadmill at a local gym, felt dizzy while walking to the shower 
and then lost consciousness with unknown downtime. He was found 
by bystanders who did not witness fall. EMS found him AOx3 
seating in the ground of locker room, ___ reportedly in 150s, 
had laceration in posterior head. No signs of tongue biting or 
incontinence. During transit had nausea and vomiting but 
remained easily arousable and answering questions appropriately. 
 
 On arrival to ED patient was found with eyes closed, opening to 
voice. Stated name and location but unsure of date. Stated he 
takes aspirin and was unable to provider further history.  
 
 In the ED, initial vitals were: 97.6 | 78 | 102/58 | 16 | 100% 
RA  
 
 Exam notable for: opens eyes to voice, moving all extremities, 
follows commands, confused, pupils 4mm equal bilaterally, 
responsive  
 + lac to back of head, no midline c spine tenderness, chest 
stable  
 RRR, no murmur, CTAB, pelvis stable, abs soft, no extremity 
injuries  
 2+ pulses throughout  
 EKG - NSR at 78 , no ischemic changes, prominent R waves in 
anterolateral leads  
 
 Labs notable for:  
 -Normal CBC  
 -Cr 1.4, unknown baseline  
 -D-dimer : 1166  
 -TnT <0.01  
 -Normal coags  
 Imaging notable for:  
 *CT head w/o contrast: No acute intracranial process. No acute 
gracture.Likely chronic anterior nasal bone fracture.  
 *CT neck: No acute fracture or acute malalignment. Mild 
multilevel degenerative changes most notable at C3 through C5. 
Asymmetry of right posterior oropharynx.  
 Patient was given:  
 ___ 20:00 IV Ondansetron 4 mg  
 ___ 00:09 IV Ondansetron 4 mg  
 ___ 00:46 IM Tetanus-DiphTox-Acellular Pertuss (Adacel) 
.5 mL  
 ___ 01:14 PO Acetaminophen 1000 mg  
 
 Vitals prior to transfer: 98.4 | 70 | 118/64 | 16 | 100% RA  
 On the floor, he complains of ongoing vertigo and nausea.  
 
 ROS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
 Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 -Ulcerative colitis  
 -Anemia: Hemoglobinopathy / Sickle-cell trait  
 -Complex renal cyst  
 -Acne vulgaris  
 -Recurrenc herpex simplex  

 
Social History:
___
Family History:
FAMILY HISTORY: (From ___ records, unable to confirm)  
 Brother Alive No Significant Medical History  
 Father ___ CAD/PVD (___)  
 Maternal Grandfather ___ Cancer  
 ___ Grandmother ___ Other[other] 
[OTHER]; Stroke  
 Mother ___ Cancer - ___ Diabetes - Type II; 
Hypertension; Psych - Bipolar Disorder  
 Paternal Grandfather ___  
 ___ Grandmother ___  
 Sister Alive ___ fibroids[other] [OTHER]  

 
Physical Exam:
Admission Exam 
==============
PHYSICAL EXAM:  
 Vital Signs: 98.6 | 122/73 | 60 | 16 | 100% RA  
 General: Alert, oriented, in acute distress due to nausea and 
vertigo  
 HEENT: Sclera anicteric, MMM, dextrogyrous rotational 
nystagmus, PERRL, neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: AOx3,conversing appropriately, dextrogyrous torsional 
nystagmus , ___ strength upper/lower extremities, grossly normal 
sensation, 2+ reflexes bilaterally, gait deferred.  

Discharge Exam 
==============
Physical exam: 
VS: T: 98.6  BP: 109/74  HR: 50  RR: 16  02: 100% RA  
GENERAL: Tired but alert, oriented, sitting in chair with eyes 
open 
HEENT: Posterior head laceration with staples in place, no 
active bleeding. MMM. Sclerae anicteric, mild injected R sclera. 
 EOMI. No nystagmus. 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi.  
HEART: Bradycardic, normal S1+S2, no m/r/g 
ABDOMEN: Soft, nontender, non-distended, normal bowel sounds, no 
rebound tenderness or guarding.  
EXTREMITIES: WWP, 2+ pulses bilaterally   
NEURO: awake, A&Ox3, somnolent, flat affect. CN II-XII intact. 
No nystagmus. Normal sensation. impaired balance when walking 
with physical therapy. 

 
Pertinent Results:
Admission Labs 
==============
___ 07:03PM BLOOD WBC-5.7 RBC-4.81 Hgb-12.2* Hct-38.0* 
MCV-79* MCH-25.4* MCHC-32.1 RDW-14.8 RDWSD-42.2 Plt ___
___ 07:03PM BLOOD Neuts-77.8* Lymphs-11.4* Monos-10.1 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-4.45 AbsLymp-0.65* 
AbsMono-0.58 AbsEos-0.01* AbsBaso-0.01
___ 07:03PM BLOOD Plt ___
___ 07:53PM BLOOD ___ PTT-27.0 ___
___ 07:03PM BLOOD Glucose-170* UreaN-19 Creat-1.4* Na-139 
K-3.8 Cl-101 HCO3-24 AnGap-18
___ 07:03PM BLOOD cTropnT-<0.01
___ 07:03PM BLOOD Calcium-10.0 Phos-3.6 Mg-1.9
___ 07:03PM BLOOD D-Dimer-1166*
___ 07:03PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

IMAGES
=============
___ CT Spine 
IMPRESSION: 
1. No acute fracture or acute malalignment. 
2. Mild multilevel degenerative changes most notable at C3 
through C5. 
3. Asymmetric nodular density at the right base of tongue 
requires correlation 
with direct inspection. 

___ CT Head 
IMPRESSION: 
1. No acute intracranial process.  No acute fracture. 
2. Age advanced involutional changes most prominent in the 
cerebellum 

___ CTA chest 
IMPRESSION:  
No evidence of pulmonary embolism or aortic abnormality. 

___  ECG 
Sinus rhythm. There are marked anteroapical and lateral T wave 
inversions 
consistent with ischemia versus subendocardial myocardial 
infarction. There is prolonged Q-T interval. Compared to tracing 
#2 the T wave inversions are slightly less marked. 

___ ECG
Sinus rhythm. There are marked anteroapical T wave inversions 
consistent with ischemia versus subendocardial myocardial 
infarction. Compared to tracing #1 the T wave inversions are 
new. Clinical correlation is suggested.  
  
___ MRI 
. Acute subarachnoid hemorrhage versus siderosis from prior 
hemorrhage in 
bilateral inferior frontal sulci. 
2. Questionable mild narrowing of right vertebral artery origin, 
versus 
artifact. 
3. Unremarkable brain MRA. 

___ CT head 
1.  Study is moderately degraded by motion. 
2. New bifrontal cortical contusions as described.  Recommend 
repeat CT scan to evaluate stability of hemorrhages. 
3. Question small right frontal subarachnoid hemorrhage versus 
artifact.  
Recommend attention on followup imaging. 
4. Postsurgical changes related to right posterior parietal 
midline scalp 
laceration repair. 

Discharge Labs 
==============
___ 08:19AM BLOOD WBC-4.0 RBC-4.50* Hgb-11.4* Hct-35.9* 
MCV-80* MCH-25.3* MCHC-31.8* RDW-14.6 RDWSD-42.5 Plt ___
___ 08:19AM BLOOD Plt ___
___ 08:19AM BLOOD ___ PTT-25.5 ___
___ 08:19AM BLOOD Glucose-86 UreaN-12 Creat-0.9 Na-136 
K-3.7 Cl-97 HCO3-28 AnGap-15
___ 08:19AM BLOOD Calcium-9.3 Phos-3.4 Mg-1.8
 
Brief Hospital Course:
This is a ___ yo male with PMH of hypertension and ulcerative 
colitis and no known neurological conditions who presents with 
vertigo and nausea following an unwitnessed fall. Blood pressure 
stable throughout hospital stay, bradycardic to ___, alert and 
oriented though markedly lethargy on exam. Bilateral cortical 
contusions on imaging. Likely post concussive vertigo after fall 
due to syncope secondary to dehydration. 

#Vertigo/Syncope/TBI
Patient presents with symptoms of vertigo following an 
unwitnessed fall in the setting of post-exertional dizziness. 
ECG was normal and troponins were negative. Initial head CT was 
negative for acute head trauma or bleed. Torsional nystagmus 
refractory to object focusing noted on initial floor exam raised 
concerns for central vertigo etiology. MRI showed no mass, but 
did show acute subarachnoid hemorrhage versus siderosis from 
prior hemorrhage in bilateral inferior frontal sulci. Follow up 
CT showed new bifrontal cortical contusions and question of 
small right frontal subarachnoid hemorrhage. Neurosurgery was 
consulted and recommended no surgical intervention, prophylaxis 
with Keppra, and 1 week repeat CT. Patient's history of extended 
wakefulness and minimal hydration likely consistent with a 
syncopal episode secondary to hypovolemia and exertion, with 
subsequent vertigo secondary to cranial trauma sustained during 
the fall. This may have been worsened with amphetamine use as 
tox screen on admission was positive although the patient 
continued to deny ingestion. Possible specific etiologies 
include labyrinthine concussion and postconcussion syndrome. ___ 
recommended outpatient ___ and OT recommended discharge with 
walker. He was discharged with close follow up with PCP and 
neurosurgery. 

#Bradycardia: Intermittently bradycardic to ___. Given normal 
EKG and patient's thin habitus, likely normal for him. Low 
suspicion for pacemaker pathology such as sick sinus syndrome; 
however, given past syncopal episode of uncertain etiology this 
should be evaluated as outpatient. ___ reported increase of HR to 
___ upon walking. 

# LACERATION: Posterior head laceration due to fall. Staples 
placed. No evidence of infection of exam. Staple will need to be 
removed on day ___

#HTN: Prescription for amlodipine but patient reports that he 
does not take it at home. Started on amlodipine 5 mg PO daily to 
keep blood pressure <160 per neurosurgery recommendations. BP 
remained well controlled. 

#UC: In remission. Continued mesalamine ___ 800mg daily 

#GERD: Continued omeprazole 40mg daily

#HSV: continued Valacyclovir 1g PO Q24hr

Transitional issues
===================
Please:
-Remove staples remove staples from posterior head laceration 7 
days after placement (___)
-Ensure that he continues the LevETIRAcetam 500 mg PO BID for 
seven day course 
-Evaluate for improvement in memory and balance
-Conduct full neuro exam and refer to hospital if there are any 
focal neurological deficits. 
-Evaluate for sick sinus syndrome if bradycardia/ syncope 
persist

Full Code
Contact: ___ Spouse ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ValACYclovir 1000 mg PO Q24H 
2. Omeprazole 40 mg PO DAILY 
3. Sildenafil 60 mg PO PRN sex 
4. amLODIPine 5 mg PO DAILY 
5. azelaic acid 15 % topical BID 
6. Mesalamine ___ 800 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate Duration: 3 Days 
RX *butalbital-acetaminophen-caff 50 mg-300 mg-40 mg 1 
capsule(s) by mouth q6 hr prn Disp #*10 Capsule Refills:*0 
2.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*11 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  azelaic acid 15 % topical BID  
5.  Mesalamine ___ 800 mg PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  ValACYclovir 1000 mg PO Q24H  
8. HELD- Sildenafil 60 mg PO PRN sex  This medication was held. 
Do not restart Sildenafil until you are no longer feeling dizzy
9.Outpatient Physical Therapy
Patient should receive outpatient physical therapy for recent 
fall with resulting mild TBI with dizziness. Please evaluate 
steadiness of gait. 

10.Rolling Walker
Diagnosis: Recent fall, mild TBI
Prognosis: Good
Length of need: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary 
=====
Vertigo secondary to Labyrinthine concussion 

secondary 
=====
Sub arachnoid hemorrhage 
HTN
Ulcerative Colitis 
GERD
Head Laceration 
HSV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   You were admitted to the hospital because you had fallen and 
hit your head. It is likely that you fell do to being dehydrated 
and lack of sleep. The dizziness that you are experiencing is 
likely due to a concussion of your inner ear. These symptoms 
should improve with time and rest. 

While you were in the hospital you received and MRI and CAT scan 
which showed evidence of concussion along with a small amount of 
blood. Neurosurgery evaluated you physical exam and images. They 
feel that it is same for you to go home as long as you follow up 
with another CT scan go to there office at the appointments 
listed below. Please continue taking the Levetiracetam 500 mg 
twice a day for 7 days (last day ___ for prevention of 
seizures and the Fioricet for headache. You will follow up with 
your PCP and with the neurosurgeon, who will do a repeat CT 
scan.

Physical therapy  saw you while in the hospital. They 
recommended that you use a walker for safety and outpatient 
physical therapy. Please take the prescription written for you 
to a physical therapy provider of your choosing. 

Occupational therapy evaluated you and believe that you have 
some impaired memory and balance from the concussion. This 
should dissipate with time. If you do not experience improvement 
in these symptoms in 1 week please contact the cognitive 
neurology clinic. The occupational therapist provided you with 
their contact info. 

If you notice any worsening symptoms please go to your primary 
care doctor or the emergency room. 

It has been a pleasure caring for you. We wish you the best. 

Your ___ care team. 
 
Followup Instructions:
___